US07465815B2
2-(2,5-Dimethylphenoxy)-2-methylpropionic acid
Using 2,5-dimethylphenol, the title compound was synthesized in the same manner as in Reference Example 36. Yield 57%. Melting point: 107-109° C. (ethyl acetate-hexane).

reactant | 2,5-dimethylphenol | CC1=C(C=C(C=C1)C)O | C8H10O
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-(2,5-Dimethylphenoxy)-2-methylpropionic acid | Yield 57% | CC1=C(OC(C(=O)O)(C)C)C=C(C=C1)C | C12H16O3
